US09382228B2
A solution of 2-amino-5-hydroxypyrimidine (1.00 g, 9.00 mmol) in DMA (25 mL) was treated with potassium tert-butoxide (1.24 g, 11.05 mmol). The thick mixture was stirred at RT for 1 h. To this was added a solution of 2,4-dichloropyridine (1.21 g, 8.18 mmol) in DMA (10 mL) and the reaction was stirred at RT overnight under Ar. The mixture was partitioned into EtOAc (100 mL) and water (100 mL). The organic phase was separated and the aqueous was extracted with EtOAc (100 mL). The combined EtOAc layers were washed with 5% LiCl (100 mL) and brine (100 mL) and then dried over sodium sulfate. The solvents were evaporated at reduced pressure to give 5-((2-chloropyridin-4-yl)oxy)pyrimidin-2-amine as a pale yellow solid (592 mg, 32%). MS (ESI) m/z: 223.0 (M+H+).

reactant | 2-amino-5-hydroxypyrimidine | 9.00 mmol, 1.00 g | NC1=NC=C(C=N1)O | C4H5N3O
reactant | potassium tert-butoxide | 11.05 mmol, 1.24 g | CC(C)([O-])C.[K+]
reactant | 2,4-dichloropyridine | 8.18 mmol, 1.21 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 5-((2-chloropyridin-4-yl)oxy)pyrimidin-2-amine | 592 mg, 32% | ClC1=NC=CC(=C1)OC=1C=NC(=NC1)N | C9H7ClN4O
